US08497274B2
(iii) Production of N-[5-(4-amino-2-cyanophenoxy)-2-fluorophenyl]-2-[3-(trifluoromethyl)phenyl]acetamide
To a solution of N-[5-(2-cyano-4-nitrophenoxy)-2-fluorophenyl]-2-[3-(trifluoromethyl)phenyl]acetamide (1.36 g, 2.96 mmol) in ethanol (25 mL)/tetrahydrofuran (10 mL) was added 10% palladium-carbon (160 mg), and the mixture was stirred at room temperature for 5 hr under a hydrogen atmosphere (1 atm). Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (ethyl acetate/n-hexane=30/70→100/0), and the fraction containing the object product was concentrated under reduced pressure to give the title compound (1.17 g, 92%) as a beige amorphous form.

reactant | N-[5-(2-cyano-4-nitrophenoxy)-2-fluorophenyl]-2-[3-(trifluoromethyl)phenyl]acetamide | 2.96 mmol, 1.36 g | C(#N)C1=C(OC=2C=CC(=C(C2)NC(CC2=CC(=CC=C2)C(F)(F)F)=O)F)C=CC(=C1)[N+](=O)[O-] | C22H13F4N3O4
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 160 mg | [C].[Pd]
product | N-[5-(4-amino-2-cyanophenoxy)-2-fluorophenyl]-2-[3-(trifluoromethyl)phenyl]acetamide | 1.17 g, 92% | NC1=CC(=C(OC=2C=CC(=C(C2)NC(CC2=CC(=CC=C2)C(F)(F)F)=O)F)C=C1)C#N | C22H15F4N3O2
